US04558155
4-[2-[(1-Methylethyl)amino]ethoxy]benzonitrile
Following the procedure of Preparation 46, 4-cyanophenol, potassium carbonate and excess 1,2-dibromoethane was reacted and the product thereof is reacted with isopropylamine to give the title compound.

reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 4-[2-[(1-Methylethyl)amino]ethoxy]benzonitrile | CC(C)NCCOC1=CC=C(C#N)C=C1 | C12H16N2O
